US07173031B2
D) 4-(3-(3-(Dimethylamino)prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorobenzenamine
To a mixture of tert-butyl 3-(3-(dimethylamino)prop-1-ynyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (170 mg, 0.374 mmol) in THF (10 mL) and MeOH (10 mL), was added Zn powder (<10 micron, 500 mg) and NH4Cl (500 mg). The reaction mixture was stirred at rt for 2 h, diluted with EtOAc, and filtered through a pad of Celite®. The filtrate was washed with sat. aq. KH2PO4 solution, dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product (110 mg, 90%) as a yellow solid. LC/MS(ESI+) m/z 325 (M+H)+.

reactant | tert-butyl 3-(3-(dimethylamino)prop-1-ynyl)-4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.374 mmol, 170 mg | CN(CC#CC1=CN(C2=NC=CC(=C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F)C(=O)OC(C)(C)C)C | C23H23FN4O5
reactant | NH4Cl | 500 mg | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zn | 500 mg | [Zn] | Zn
product | 4-(3-(3-(Dimethylamino)prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorobenzenamine | 110 mg, 90% | CN(CC#CC1=CNC2=NC=CC(=C21)OC2=C(C=C(C=C2)N)F)C | C18H17FN4O
